US04808595
Step C: Preparation of N,N-Diethyl furo[3,2-b]pyridine-6-carboxamide
To a suspension of furo[3,2-b]pyridine-6-carboxylic acid (3.26 g, 20 mmol) in dry acetone (40 mL), under a nitrogen atmosphere and cooled in an ice bath, was added dropwise triethylamine (3.1 mL, 22.3 mmol). After 15 minutes, a solution of ethyl chloroformate (2.1 mL, 22.3 mmol) in dry acetone (12 mL) was added dropwise. This solution was stirred for two hours and then diethylamine (4.2 mL, 40.6 mmol) was added. After another hour the reaction mixture was diluted with chloroform/water and the chloroform layer separated and washed with sodium carbonate solution and then 10% hydrochloric acid. The chloroform solution was dried over anhydrous sodium sulfate, filtered through a charcoal pad and evaporated to give crude oily product (4.2 g). This material was purified by fractional distillation to give 2.42 g (55.5% yield) of oil, bp: 155°-156° C./1.2 mmHg.

reactant | furo[3,2-b]pyridine-6-carboxylic acid | 20 mmol, 3.26 g | O1C=CC2=NC=C(C=C21)C(=O)O | C8H5NO3
reactant | triethylamine | 22.3 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 22.3 mmol, 2.1 mL | ClC(=O)OCC | C3H5ClO2
reactant | diethylamine | 40.6 mmol, 4.2 mL | C(C)NCC | C4H11N
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | acetone | 12 mL | CC(=O)C | C3H6O
solvent | chloroform water | C(Cl)(Cl)Cl.O
product | N,N-Diethyl furo[3,2-b]pyridine-6-carboxamide | 4.2 g | C(C)N(C(=O)C=1C=C2C(=NC1)C=CO2)CC | C12H14N2O2
